US07667041B2
Synthesis of 3-chloro-4-(1H-imidazol-1-yl)benzaldehyde
To a DMF (20 mL) solution of 3-chloro-4-fluorobenzaldehyde (500 mg), potassium carbonate (1.20 g) and imidazole (275 mg) were added one by one, and the reaction solution was agitated at 80° C. overnight. Water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (elution solvent:ethyl acetate→ethyl acetate:methanol=10:1), and 548 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 3-chloro-4-fluorobenzaldehyde | 500 mg | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | potassium carbonate | 1.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | imidazole | 275 mg | N1C=NC=C1 | C3H4N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-chloro-4-(1H-imidazol-1-yl)benzaldehyde | 548 mg | ClC=1C=C(C=O)C=CC1N1C=NC=C1 | C10H7ClN2O
